US06683088B2
1-[2-(2-Aminoethoxy)ethyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (750 mg, 2.28 mmol) was dissolved in 30 mL of anhydrous CH2Cl2 and cooled to 0° C. under N2. To the stirred solution were added Et3N (0.64 mL, 4.56 mmol) and methanesulfonyl chloride (176 μL, 2.28 mmol) and the reaction was allowed to warm to room temperature over 2 h. The reaction mixture was then quenched by addition of saturated NaHCO3 solution (30 mL). The organic layer was separated and washed with H2O (3×25 mL) and brine, dried over Na2SO4 and concentrated under reduced pressure to give a tan foam. The foam was dissolved in a minimum amount of MeOH and Et2O was added and a solid percipitated from the solution. The off-white solid was isolated by filtration and dried to yield 385 mg of N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)methanesulfonamide. m.p. 114.0-117.0° C.;

reactant | 1-[2-(2-Aminoethoxy)ethyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.28 mmol, 750 mg | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O2
reactant | Et3N | 4.56 mmol, 0.64 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.28 mmol, 176 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)methanesulfonamide | 385 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNS(=O)(=O)C)CCOC | C18H25N5O4S
